US08183239B2
Phenyl-[4-(4-phenylcarbamoyl-phenyl)-piperazin-1-yl]-acetic acid methyl ester
A mixture of N-phenyl-4-piperazin-1-yl-benzamide (4 mg, 0.02 mmol), methyl α-bromophenyl acetate (3 μL, 0.02 mmol), and K2CO3 (3 mg, 0.02 mmol) in DMF (1 mL) was stirred for 16 h. The mixture was diluted with H2O and extracted with methanolic DCM (2×). The combined organic layers were dried (MgSO4) and concentrated to give an oil, which was purified by PTLC to give a white solid (3 mg, 44%). MS (ESI): mass calcd. for C26H27N3O3, 429.51. m/z found, 430.4 [M+H]+. 1H NMR (CDCl3): 7.71 (d, J=8.9, 2H), 7.69 (br s, 1H), 7.61 (d, J=7.6, 2H), 7.47-7.45 (m, 2H), 7.39-7.33 (m, 5H), 7.12 (t, J=7.4, 1H), 6.89 (d, J=8.9, 2H), 4.07 (s, 1H), 3.71 (s, 3H), 3.36-3.33 (m, 4H), 2.64-2.61 (m, 4H).

reactant | N-phenyl-4-piperazin-1-yl-benzamide | 0.02 mmol, 4 mg | C1(=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C17H19N3O
reactant | K2CO3 | 0.02 mmol, 3 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Phenyl-[4-(4-phenylcarbamoyl-phenyl)-piperazin-1-yl]-acetic acid methyl ester | 3 mg, 44% | COC(C(N1CCN(CC1)C1=CC=C(C=C1)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C26H27N3O3
